US04504490
2-(3-Acetylureido)-5-phenoxysulfonylaniline (formula II)
48 g of 2-(3-acetylureido)-5-phenoxysulfonylnitrobenzene in 300 ml of methanol and 300 ml of 2-methoxyethanol are hydrogenated under normal pressure with a catalytic amount of Raney nickel. After hydrogen uptake is complete, the catalyst is filtered off with suction, washed with dimethylformamide and the solution is evaporated under reduced pressure. The residue is stirred with hot methanol, and the solid is filtered off cold under suction and washed with methanol and diisopropyl ether, melting point 202° C., decomposition.

reactant | 2-(3-acetylureido)-5-phenoxysulfonylnitrobenzene | 48 g | C(C)(=O)NC(NC1=C(C=C(C=C1)S(=O)(=O)OC1=CC=CC=C1)[N+](=O)[O-])=O | C15H13N3O7S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
solvent | 2-methoxyethanol | 300 ml | COCCO | C3H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 2-(3-Acetylureido)-5-phenoxysulfonylaniline | C(C)(=O)NC(NC1=C(N)C=C(C=C1)S(=O)(=O)OC1=CC=CC=C1)=O | C15H15N3O5S
